US06936632B2
a) Methyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate
6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine (Example 17 a, 1.5 g, 5.1 mmol), dissolved in THF (10 ml), is treated with 1 drop of triethylamine (about 50 mg). A solution of diphosgene (0.5 g, 2.5 mmol), dissolved in THF (5 ml), is added dropwise to this solution at RT and it is stirred for 8 h. Methanol (abs., 3 ml) is then added, and the mixture is stirred at RT for a further 12 h. The solvent is completely removed in vacuo (45° C.). The resinous residue is dissolved in CHCl3 (20 ml) and washed twice with water (20 ml). After the removal of the solvent in vacuo, a residue which is recrystallized from a little diisopropyl ether is obtained from the CHCl3 phase dried using Na2SO4 sicc.

reactant | 6-(4-Chlorophenyl)-7-phenyl-2,3-dihydro-1H-pyrrolizine | ClC1=CC=C(C=C1)C1=CN2CCCC2=C1C1=CC=CC=C1 | C19H16ClN
reactant | diphosgene | 2.5 mmol, 0.5 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | Methanol | 3 ml | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | triethylamine | 1 drop, about 50 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 2-(4-chlorophenyl)-1-phenyl-6,7-dihydro-5H-pyrrolizine-3-carboxylate | ClC1=CC=C(C=C1)C=1C(=C2CCCN2C1C(=O)OC)C1=CC=CC=C1 | C21H18ClNO2
